US04425424
Preparation 1. Synthesis of N-Benzenesulfonyloxyphthalimide
A dichloromethane (50 ml) solution of triethylamine (3.1 g, 0.0306 mole) was slowly added to a stirred dichloromethane (50 ml) suspension of N-hydroxyphthalimide (5.0 g, 0.0306 mole) and benzenesulfonyl chloride (5.4 g, 0.0306 mole) at ice-bath temperature. The stirred reaction mixture was kept at ambient temperature for about 24 hours. The product was partitioned between dichloromethane and distilled water and the dichloromethane extract was dried with magnesium sulfate. Solvent was removed under reduced pressure and the residue was crystallized with ethyl acetate-n-pentane (2:1 v/v) to give 8.0 g (87%) of colorless crystals; mp 186°; mass spectrum M+ 303 (calcd. M+ 303).

reactant | triethylamine | 0.0306 mole, 3.1 g | C(C)N(CC)CC | C6H15N
reactant | N-hydroxyphthalimide | 0.0306 mole, 5.0 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | benzenesulfonyl chloride | 0.0306 mole, 5.4 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-Benzenesulfonyloxyphthalimide | 8.0 g, 87% | C1(=CC=CC=C1)S(=O)(=O)ON1C(C=2C(C1=O)=CC=CC2)=O | C14H9NO5S
